US09422331B2
To a solution of 4-benzyl 3-tert-butyl(4S,5R)-5-methyl-1,2,3-oxathiazolidine-3,4-dicarboxylate 2,2-dioxide (17.13 g, 46.1 mmol) in DMF (171 ml) at −40° C. was added sodium azide (3.9 g, 60.0 mmol) in portions, and the mixture was stirred at −40° C. then slowly warmed to rt over 4 h. Added 20% aq. NaCl (100 ml), followed by dropwise addition of 2 N H2SO4 (10 ml). The reaction was stirred at rt for 3 h, then partitioned between H2O and EtOAc, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with H2O and brine, dried over Na2SO4, filtered, and concentrated to afford (2S,3S)-benzyl 3-azido-2-(tert-butoxycarbonylamino)butanoate as a slightly yellowish glue (14.8 g, 96%).

reactant | 4-benzyl 3-tert-butyl(4S,5R)-5-methyl-1,2,3-oxathiazolidine-3,4-dicarboxylate 2,2-dioxide | 46.1 mmol, 17.13 g | C[C@@H]1[C@H](N(S(O1)(=O)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C16H21NO7S
reactant | sodium azide | 60.0 mmol, 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | NaCl | 100 ml | [Na+].[Cl-]
reactant | H2SO4 | 2 N, 10 ml | OS(=O)(=O)O | H2O4S
solvent | DMF | 171 ml | CN(C)C=O | C3H7NO
product | (2S,3S)-benzyl 3-azido-2-(tert-butoxycarbonylamino)butanoate | N(=[N+]=[N-])[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C | C16H22N4O4
